US06232318B1
A solution of zinc chloride (0.5 M in tetrahydrofuran, 2.3 mL, 1.1 mL) and a solution of phenyllithium (1.8 M in tetrahydrofuran, 3.2 mL, 5.7 mmol) were stirred together at −78° C. under inert atmosphere for 10 min when the reaction was warmed to ambient temperature. Tetrakis(triphenylphosphine)palladium(0) (66 mg, 0.057 mmol) and 3-(3-tert-butoxycarbonylaminopropyl)-1-benzyl-5-bromo-1H-pyrimidine-2,4-dione (500 mg, 1.1 mmol) were added and the reaction stirred at ambient temperature 20 h. The reaction mixture was treated with saturated sodium bicarbonate (50 mL) and extracted into ethyl acetate (3×50 mL). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting mixture was purified by pressurized silica gel chromatography (25-35% ethyl acetate in hexane) to provide 3-(3-tert-butoxycarbonylaminopropyl)-1-benzyl-5-phenyl-1H-pyrimidine-2,4-dione.

reactant | phenyllithium | 5.7 mmol, 1.8 M, 3.2 mL | C1(=CC=CC=C1)[Li]
reactant | 3-(3-tert-butoxycarbonylaminopropyl)-1-benzyl-5-bromo-1H-pyrimidine-2,4-dione | 1.1 mmol, 500 mg | C(C)(C)(C)OC(=O)NCCCN1C(N(C=C(C1=O)Br)CC1=CC=CC=C1)=O | C19H24BrN3O4
catalyst | zinc chloride | 0.5 M, 2.3 mL | [Cl-].[Zn+2].[Cl-]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.057 mmol, 66 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
product | 3-(3-tert-butoxycarbonylaminopropyl)-1-benzyl-5-phenyl-1H-pyrimidine-2,4-dione | C(C)(C)(C)OC(=O)NCCCN1C(N(C=C(C1=O)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C25H29N3O4
